US07501395B2
To 700 mg of 4-hydroxy-1,5-naphthyridine (CAS No. 5423-54-1, purchased from Specs), phosphorous oxychloride (15 ml) was added and heated to reflux for an hour. The reaction was put back to room temperature. The mixture was poured to ice, made alkaline with ammonia water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried with magnesium sulfate, filtrated through NH silica gel, and the filtrate was concentrated under reduced pressure to obtain 456 mg of 4-chloro-1,5-naphthyridine (CAS No. 7689-63-6). To the obtained 4-chloro-1,5-naphthyridine (456 mg), pyridine (19 ml) and n-propylamine hydrochloride (1.32 g) were added and heated to reflux for 3.5 hours. The mixture was cooled to room temperature, concentrated under reduced pressure, and the obtained residue was partitioned between diethyl ether and 2N aqueous sodium hydroxide. The ether layer was separated and dried with magnesium sulfate. Solvent was distilled away and the residue was purified with NH silica gel (ethyl acetate/heptane system) to obtain 345 mg of the title compound (CAS No. 7689-63-6). The same operation was repeated to synthesize for another 952 mg. The structure of the obtained title compound and results from NMR measurement were as follows.

reactant | 4-hydroxy-1,5-naphthyridine | 700 mg | OC1=CC=NC2=CC=CN=C12 | C8H6N2O
reactant | phosphorous oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia water | O.N
product | 4-chloro-1,5-naphthyridine | 456 mg | ClC1=CC=NC2=CC=CN=C12 | C8H5ClN2
